US07732440B2
2-(5,5-Dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(tetrahydropyran-4-yl)propionamide
600 mg of 2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionic acid, 120 mg of commercially available 1-methyl-1H-pyrazole-3-amine and 729 μl of N,N-diisopropylethylamine are dissolved in 5 ml of dimethylformamide. 561 mg of HATU and 200 mg of HOAT are added, and the mixture is stirred at room temperature for two hours. The reaction mixture is then diluted by addition of 200 ml of ethyl acetate and washed three times with in each case 50 ml of water and saturated sodium chloride solution. The organic phase is dried over MgSO4, and the solvent is then removed under reduced pressure. The residue is purified by RP-HPLC. This gives 200 mg of 2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(11-methyl-1H-pyrazol-3-yl)-3-(tetrahydropyran-4-yl)propionamide as a colorless lyophilisate.

reactant | 2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionic acid | 600 mg | O=S1(C=2C=CC(=CC2NC2=CC=CC=C12)C(C(=O)O)CC1CCOCC1)=O | C20H21NO5S
reactant | 1-methyl-1H-pyrazole-3-amine | CN1N=C(C=C1)N | C4H7N3
reactant | N,N-diisopropylethylamine | 729 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 561 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAT | 200 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-(5,5-Dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(tetrahydropyran-4-yl)propionamide | O=S1(C=2C=CC(=CC2NC2=CC=CC=C12)C(C(=O)NC1=NN(C=C1)C)CC1CCOCC1)=O | C24H26N4O4S
